US04064236
To a well stirred mixture of 0.05 moles of ethyl 6-amino-2-hydroxyhexanoate and 100 ml of methylene chloride which has been cooled to 0° to 5° C is added 0.1 moles of N-methylmorpholine followed by 0.055 moles of carbobenzoxy chloride. The reaction mixture is stirred for 1 hour then washed with saturated sodium bicarbonate solution. The organic layer is dried over sodium sulfate and concentrated in vacuo. Chromatography of the residue on silica gel and elution with methanol/chloroform gives ethyl 6-(benzyloxycarbonylamino)-2-hydroxyhexanoate.

reactant | ethyl 6-amino-2-hydroxyhexanoate | 0.05 moles | NCCCCC(C(=O)OCC)O | C8H17NO3
reactant | N-methylmorpholine | 0.1 moles | CN1CCOCC1 | C5H11NO
reactant | carbobenzoxy chloride | 0.055 moles | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 6-(benzyloxycarbonylamino)-2-hydroxyhexanoate | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)OCC)O | C16H23NO5
